US06979696B2
To a stirred solution of (6-methoxy-1-tri-tert-butylsilanyl-1H-indol-3-ylmethyl)-dimethylamine (0.2 g, 0.56 mmol) in anhydrous ether (20 ml) at −78° C. was added tert-butyllithium (43 mg, 0.67 mmol, 1.7M in pentane) dropwise. After being stirred for 20 min, the mixture was allowed to warm to 0° C. and was stirred for one hour. The mixture was then re-cooled to −78° C., and a solution of hexachloroethane (0.2 g, 0.84 mmol) in anhydrous ether (10 ml) was added over 10 min. The reaction mixture was warmed to room temperature and stirring was continued for another 1.5 hour before quenching with saturated ammonium chloride solution. After extracting into ether, the ether extract was dried (anhydrous sodium sulfate), and concentrated under reduced pressure to give (4-Chloro-6-methoxy-1-tri-tert-butylsilanyl-1H-indol-3-ylmethyl)-dimethylamine as an oil (0.217 g, 98.6%). 1H NMR (CDCl3) δ:1.12 (d, 18H, J=7.52 Hz), 1.66 (m, 3H), 2.30 (s, 6H), 3.75 (s, 2H), 3.80 (s, 3H), 6.78 (d, 1H, J=2.2 Hz), 6.88 (d, 1H, J=2.2 Hz), 7.02 (s, 1H).

reactant | (6-methoxy-1-tri-tert-butylsilanyl-1H-indol-3-ylmethyl)-dimethylamine | 0.56 mmol, 0.2 g | COC1=CC=C2C(=CN(C2=C1)[Si](C(C)(C)C)(C(C)(C)C)C(C)(C)C)CN(C)C | C24H42N2OSi
reactant | tert-butyllithium | 0.67 mmol, 1.7M, 43 mg | C(C)(C)(C)[Li]
reactant | hexachloroethane | 0.84 mmol, 0.2 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | (4-Chloro-6-methoxy-1-tri-tert-butylsilanyl-1H-indol-3-ylmethyl)-dimethylamine | 0.217 g, 98.6% | ClC1=C2C(=CN(C2=CC(=C1)OC)[Si](C(C)(C)C)(C(C)(C)C)C(C)(C)C)CN(C)C | C24H41ClN2OSi
